US08735444B2
2-Fluoro-5-hydroxy-N-trifluoroacetylaniline (2-OH—H):
Compound 32-NH2—H (248 mg, 1.12 mmol) was dissolved in 35% aq. H2 SO4 (2 mL) cooled to 0° C., and NaNO2 (96.6 mg 1.4 mmol) in water (1 mL) was added carefully through a Teflon® tube to the bottom of the flask. An exothermic reaction was observed and the brown gas evolved. The mixture was stirred for 5 min, several crystals of urea were added to the reaction mixture, and then the reaction solution was transferred into the blue solution of Cu(NO3)2*3H2O (3.75 g, 15.5 mmol) in water (36 mL). The color of the solution changed to green. With vigorous stirring, the powder of Cu2O (132 mg, 0.920 mmol) was added, and the evolution of nitrogen was complete in several minutes. The reaction mixture was extracted with ether (3×200 mL); combined organic solutions were washed with brine (100 mL) and dried. The solvent was removed in vacuo, and the residue was filtered through SiO2 (50 mL), eluting with CH2 Cl2/EtOAc mixture (4:1). The title compound was isolated as a brown solid (116 mg, 52%) with m.p. 151-153° C. (ether/hexane). This procedure may be easily scaled-up. 1H NMR (CD3OD, 300 MHz, ppm): δ=6.70 (ddd, 4JHH=3.0, 4JHF=3.9, 3JHH=9.0, 1H, H-4), 7.03 (dd, 3JHH=9.0, 3JHF=10.1, 1H, H-3), 7.08 (dd, 4JHH=3.0, 4JHF=6.2, 1H, H-6); 13C NMR (CD3 OD, δ5.5 MHz, ppm): δ=113.4 (s, C-4/6), 115.4 (d, 3JCF=7.2, C-6/4), 117.2 (d, 2JCF=21.3, C-3), 117.4 (q, 1JCF=298, CF3), 124.4 (d, 2JCF=13.8, C-1), 150.5 (d, 1JCF=239, C-2), 154.8 (s, C-5), 157.1 (q, 2JCF=37.7, CO); EI-MS: m/z (rel. int., %)=223 (100) [M], 154 (21), 126(22), 99 (22); elemental analysis (%): C, 42.92; H, 2.44; N, 6.54 (found); C, 43.07; H, 2.26; N, 6.28 (calc.).

reactant | 5-Amino-2-fluoro-N-methyl-N-trifluoroacetylaniline | 1.12 mmol, 248 mg | NC=1C=CC(=C(N(C(C(F)(F)F)=O)C)C1)F | C9H8F4N2O
reactant | NaNO2 | 1.4 mmol, 96.6 mg | N(=O)[O-].[Na+]
reactant | urea | NC(=O)N | CH4N2O
solvent | water | 1 mL | O | H2O
solvent | water | 36 mL | O | H2O
product | 2-Fluoro-5-hydroxy-N-trifluoroacetylaniline | FC1=C(NC(C(F)(F)F)=O)C=C(C=C1)O | C8H5F4NO2
